### PR TITLE
[Merged by Bors] - feat(Algebra/Homology/SpectralObject): first quadrant spectral objects

### PR DESCRIPTION
**Pull request by joelriou**
When a spectral object indexed by the extended integers lies on the first quadrant (typeclass `IsFirstQuadrant`), it will be possible to construct a spectral sequence where the objects on the pages are indexed by `ℕ × ℕ` (TODO).

---

- [x] depends on: #35374
- [x] depends on: #35373
- [x] depends on: #35372
- [x] depends on: #35357
- [x] depends on: #35355

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/SpectralObject/HasSpectralSequence.lean [hunk 1]
```diff
@@ -359,6 +359,99 @@ instance {l : ℕ} (E : SpectralObject C (Fin (l + 1))) :
...
+lemma isZero₂_of_isFirstQuadrant (i j : EInt) (hij : i ≤ j) (n : ℤ) (hi : n < i) :
+    IsZero ((Y.H n).obj (mk₁ (homOfLE hij))) :=
+  IsFirstQuadrant.isZero₂ i j hij n hi
+
+instance : Y.HasSpectralSequence coreE₂CohomologicalNat where
+  isZero_H_obj_mk₁_i₀_le := by
+    rintro r _ ⟨p, q⟩ hpq n rfl rfl hr
+    apply isZero₁_of_isFirstQuadrant
+    dsimp
+    simp only [WithBotTop.coe_le_coe]
```
Comment (smorel394) [inline Mathlib/Algebra/Homology/SpectralObject/HasSpectralSequence.lean]:
```suggestion
    simp only [coreE₂CohomologicalNat_i₀, WithBotTop.coe_le_coe]
```

File: Mathlib/Algebra/Homology/SpectralObject/HasSpectralSequence.lean [hunk 2]
```diff
@@ -359,6 +359,99 @@ instance {l : ℕ} (E : SpectralObject C (Fin (l + 1))) :
...
+    by_contra!
+    obtain ⟨p', hp'⟩ := Int.eq_ofNat_of_zero_le (show 0 ≤ p + r by lia)
+    obtain ⟨q', hq'⟩ := Int.eq_ofNat_of_zero_le (show 0 ≤ q + 1 - r by lia)
+    simp only [ComplexShape.spectralSequenceNat_rel_iff] at hpq
```
Comment (smorel394) [inline Mathlib/Algebra/Homology/SpectralObject/HasSpectralSequence.lean]:
```suggestion
```

File: Mathlib/Algebra/Homology/SpectralObject/HasSpectralSequence.lean [hunk 3]
```diff
@@ -359,6 +359,99 @@ instance {l : ℕ} (E : SpectralObject C (Fin (l + 1))) :
...
+    exact hpq ⟨p', q'⟩ (by constructor <;> lia)
+  isZero_H_obj_mk₁_i₃_le := by
+    rintro r _ ⟨p, q⟩ hpq n rfl rfl hr
+    apply isZero₂_of_isFirstQuadrant
+    dsimp
+    simp only [WithBotTop.coe_lt_coe]
```
Comment (smorel394) [inline Mathlib/Algebra/Homology/SpectralObject/HasSpectralSequence.lean]:
```suggestion
    simp only [coreE₂CohomologicalNat_deg, coreE₂CohomologicalNat_i₃, WithBotTop.coe_lt_coe]
```

File: Mathlib/Algebra/Homology/SpectralObject/HasSpectralSequence.lean [hunk 4]
```diff
@@ -359,6 +359,99 @@ instance {l : ℕ} (E : SpectralObject C (Fin (l + 1))) :
...
+    by_contra!
+    obtain ⟨p', hp'⟩ := Int.eq_ofNat_of_zero_le (show 0 ≤ p - r by lia)
+    obtain ⟨q', hq'⟩ := Int.eq_ofNat_of_zero_le (show 0 ≤ q - 1 + r by lia)
+    simp only [ComplexShape.spectralSequenceNat_rel_iff] at hpq
```
Comment (smorel394) [inline Mathlib/Algebra/Homology/SpectralObject/HasSpectralSequence.lean]:
```suggestion
```

File: Mathlib/Algebra/Homology/SpectralObject/HasSpectralSequence.lean [hunk 5]
```diff
@@ -359,6 +359,99 @@ instance {l : ℕ} (E : SpectralObject C (Fin (l + 1))) :
...
+lemma isZero₂_of_isThirdQuadrant (i j : EInt) (hij : i ≤ j) (n : ℤ) (hj : j ≤ n) :
+    IsZero ((Y.H n).obj (mk₁ (homOfLE hij))) :=
+  IsThirdQuadrant.isZero₂ i j hij n hj
+
+instance : Y.HasSpectralSequence coreE₂HomologicalNat where
+  isZero_H_obj_mk₁_i₀_le := by
+    rintro r _ ⟨p, q⟩ hpq n rfl rfl hr
+    apply isZero₂_of_isThirdQuadrant
+    dsimp
+    simp only [WithBotTop.coe_le_coe]
```
Comment (smorel394) [inline Mathlib/Algebra/Homology/SpectralObject/HasSpectralSequence.lean]:
```suggestion
    simp only [coreE₂HomologicalNat_i₀, coreE₂HomologicalNat_deg, WithBotTop.coe_le_coe]
```

File: Mathlib/Algebra/Homology/SpectralObject/HasSpectralSequence.lean [hunk 6]
```diff
@@ -359,6 +359,99 @@ instance {l : ℕ} (E : SpectralObject C (Fin (l + 1))) :
...
+    by_contra!
+    obtain ⟨p', hp'⟩ := Int.eq_ofNat_of_zero_le (show 0 ≤ p - r by lia)
+    obtain ⟨q', hq'⟩ := Int.eq_ofNat_of_zero_le (show 0 ≤ q + r - 1 by lia)
+    simp only [ComplexShape.spectralSequenceNat_rel_iff] at hpq
```
Comment (smorel394) [inline Mathlib/Algebra/Homology/SpectralObject/HasSpectralSequence.lean]:
```suggestion
```

File: Mathlib/Algebra/Homology/SpectralObject/HasSpectralSequence.lean [hunk 7]
```diff
@@ -359,6 +359,99 @@ instance {l : ℕ} (E : SpectralObject C (Fin (l + 1))) :
...
+    exact hpq ⟨p', q'⟩ (by constructor <;> lia)
+  isZero_H_obj_mk₁_i₃_le := by
+    rintro r _ ⟨p, q⟩ hpq n rfl rfl hr
+    apply isZero₁_of_isThirdQuadrant
+    dsimp
+    simp only [WithBotTop.coe_lt_coe]
```
Comment (smorel394) [inline Mathlib/Algebra/Homology/SpectralObject/HasSpectralSequence.lean]:
```suggestion
    simp only [coreE₂HomologicalNat_i₃, WithBotTop.coe_lt_coe]
```

File: Mathlib/Algebra/Homology/SpectralObject/HasSpectralSequence.lean [hunk 8]
```diff
@@ -359,6 +359,99 @@ instance {l : ℕ} (E : SpectralObject C (Fin (l + 1))) :
...
+    by_contra!
+    obtain ⟨p', hp'⟩ := Int.eq_ofNat_of_zero_le (show 0 ≤ p + r by lia)
+    obtain ⟨q', hq'⟩ := Int.eq_ofNat_of_zero_le (show 0 ≤ q + 1 - r by lia)
+    simp only [ComplexShape.spectralSequenceNat_rel_iff] at hpq
```
Comment (smorel394) [inline Mathlib/Algebra/Homology/SpectralObject/HasSpectralSequence.lean]:
```suggestion
```

**Review by robin-carlier — APPROVED** [review]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
